US04772721
(5) L-Nτ -Methylhistidine .2 Hydrochloride (H-L-His(Nτ -Me)OH.2 HCl)
3.37 g (10 mmol) of (+)-(7S)-5,6,7,8-tetra-hydro-7-(methoxycarbonyl)-2-methyl-5-oxoimidazo[1,5-c]pyrimidine hydroiodide is heated under reflux in 40 ml of 6N HCl until no starting compound can be detected any longer by thin-layer chromatography (6-8 hours). Then, the hydrochloric acid is withdrawn under vacuum, the oily residue is taken up in ethanol and crystallized by addition of ether.

reactant | (+)-(7S)-5,6,7,8-tetra-hydro-7-(methoxycarbonyl)-2-methyl-5-oxoimidazo[1,5-c]pyrimidine hydroiodide | 10 mmol, 3.37 g | I.COC(=O)[C@@H]1CC=2N(C(N1)=O)CN(C2)C
solvent | HCl | 6N, 40 ml | Cl | ClH
product | Methylhistidine | CN[C@@H](CC1=CNC=N1)C(=O)O | C7H11N3O2
